US05854268
a) N-tert-Butyloxycarbonylazetidin-3-ol
A suspension of azetidin-3-ol hydrochloride (J. Chem. Soc., Chem. Commun., 1968, 93; 18.4 g, 168.1 mmol), (Boc)2O (56 g, 256.6 mmol) and NEt3 (52 ml, 373 mmol), in anhydrous THF (1000 ml) was stirred at room temperature for 16 h. The solvent was removed under vacuum and the residue partitioned between EtOAc (260 ml) and H2O (200 ml). The aqueous was further extracted with EtOAc (3×200 ml). The combined extracted were dried (Na2SO4) and evaporated and the crude product was chromatographed on silica gel eluting with CH2Cl2 /MeOH (95:5→90:10) to give the title product (16.9 g, 58%). δ (250 MHz, CDCl3) 1.43 (9H, s, (Me)3), 3.28 (1H, br s, OH), 3.77-3.83 (2H, m, CH2), 4.10-4.17 (2H, m, CH2), 4.50-4.62 (1H, m, CH).

reactant | azetidin-3-ol hydrochloride | 168.1 mmol, 18.4 g | Cl.N1CC(C1)O
reactant | (Boc)2O | 256.6 mmol, 56 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NEt3 | 373 mmol, 52 ml | CCN(CC)CC | C6H15N
solvent | THF | 1000 ml | C1CCOC1 | C4H8O
product | N-tert-Butyloxycarbonylazetidin-3-ol | 16.9 g, 58% | C(C)(C)(C)OC(=O)N1CC(C1)O | C8H15NO3
